US04994485
Preparation of 2-methylthio-3,5-dicyano-4-aminothiophene.
A concentrated solution of 50 g of KOH in approximately 30 ml of water is slowly added dropwise to a solution of 26.5 g of malonic acid dinitrile in approximately 250 ml of dimethyl formamide to which 45 ml of carbon disulphide have been added. During the addition the mixture is stirred and kept at a temperature of 0°-10° C. by cooling. After 10 minutes, 60.0 g of methyl iodide are slowly added dropwise while stirring and cooling and then, after 30 minutes, 30.5 g of chloroacetonitrile. The cooling bath is removed and 4.0 g of powdered KOH are added, the temperature of the reaction mixture rising to approximately 42° C. After stirring for another hour at 30°-35°° C., 600 ml of water and 100 ml of diethyl ether are added, after which the formed precipitate is sucked off, washed successively with water, isopropyl alcohol and diethyl ether, and dried. The desired product is obtained in a yield of 54.5 g and sublimates at 260° C.

reactant | KOH | 50 g | [OH-].[K+]
reactant | malonic acid dinitrile | 26.5 g | C(C#N)C#N | C3H2N2
reactant | methyl iodide | 60.0 g | CI | CH3I
reactant | chloroacetonitrile | 30.5 g | ClCC#N | C2H2ClN
reactant | carbon disulphide | 45 ml | C(=S)=S | CS2
solvent | water | approximately 30 ml | O | H2O
solvent | dimethyl formamide | approximately 250 ml | CN(C=O)C | C3H7NO
product | 2-methylthio-3,5-dicyano-4-aminothiophene | CSC=1SC(=C(C1C#N)N)C#N | C7H5N3S2
